US05739345
5-{4-[2-(3-Methylimidazo[5,4-b]pyridin-2-yl)ethoxy]benzyl}thiazolidine-2,4-dione (Compound No. 1-190)
A procedure similar to that described in Example 18 was repeated, except that 0.94 g of 3-amino-2-methylaminopyridine (prepared as described in Preparation 105), 2.10 g of 5-[4-(3-oxopropoxy)benzyl]thiazolidine-2,4-dione (prepared as described in Preparation 107), 6 ml of ethanol, 3 ml of acetic acid, 2.32 g of iodine and 30 ml of 1,2-dimethoxyethane were used. After working up the product as described in Example 18, the resulting crude product was purified by column chromatography through silica gel, using ethyl acetate as the eluent, to give 85 mg of the title compound, melting at 96°-100° C.

reactant | 3-amino-2-methylaminopyridine | 0.94 g | NC=1C(=NC=CC1)NC | C6H9N3
reactant | 5-[4-(3-oxopropoxy)benzyl]thiazolidine-2,4-dione | 2.10 g | O=CCCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C13H13NO4S
reactant | ethanol | 6 ml | C(C)O | C2H6O
reactant | iodine | 2.32 g | II | I2
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 5-{4-[2-(3-Methylimidazo[5,4-b]pyridin-2-yl)ethoxy]benzyl}thiazolidine-2,4-dione | 85 mg | CN1C(=NC=2C1=NC=CC2)CCOC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C19H18N4O3S
